US08664220B2
Step 2: 1-(4′-{4-[4-(3,4-Dichloro-benzenesulfonyl)-piperazine-1-carbonyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 2, Step 2, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[4-(3,4-dichloro-benzenesulfonyl)-piperazin-1-yl]-methanone and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[4-(3,4-dichloro-benzenesulfonyl)-piperazin-1-yl]-methanone | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl | C21H18BrCl2N3O4S
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-(4′-{4-[4-(3,4-Dichloro-benzenesulfonyl)-piperazine-1-carbonyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl | C33H31Cl2N3O6S
